US05292757
After 2.15 g (4.2 mmols) of 1,4-dihydro-4-(3,4-dimethoxy-phenyl)-2,6-dimethyl-1-(3-benzyloxypropyl)-3,5-pyridine-dicarboxylic acid 3,5-dimethyl ester prepared by the process described in Japanese Patent Application Laid Open No. 1-316357 was dissolved in 8 ml of dimethylsulfoxide, 320 mg (4.9 mmols) of potassium hydroxide dissolved in 0.5 ml of water was added to the solution. The mixture was heated at 100° C. for 5 hours. After the solvent was distilled off under reduced pressure, 10 ml of water was added to the residue followed by extraction twice with ethyl acetate. After the aqueous phase was rendered acidic with diluted hydrochloric acid, extraction was performed 3 times with chloroform. After washing with water, the extract was concentrated and the obtained residue was purified by silica gel column chromatography (developing solvent: ethyl acetate-n-hexane=1:1) to give 875 mg of 1,4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl-1-(3-benzyloxypropyl)-3,5-pyridinedicarboxylic acid 3-methyl ester as an oil. Yield, 42%. The obtained monocarboxylic acid was esterified by the method described in Example 1 to give 1,4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl-1-(3-benzyloxypropyl)-3,5-pyridine-dicarboxylic acid 3-methyl-5-[3 -(4-methylpiperazino)propyl] ester.

reactant | 1,4-dihydro-4-(3,4-dimethoxy-phenyl)-2,6-dimethyl-1-(3-benzyloxypropyl)-3,5-pyridine-dicarboxylic acid 3,5-dimethyl ester | 4.2 mmols, 2.15 g | COC(=O)C1=C(N(C(=C(C1C1=CC(=C(C=C1)OC)OC)C(=O)OC)C)CCCOCC1=CC=CC=C1)C | C29H35NO7
reactant | potassium hydroxide | 4.9 mmols, 320 mg | [OH-].[K+]
solvent | dimethylsulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | water | 0.5 ml | O | H2O
product | 1,4-dihydro-4-(3,4-dimethoxyphenyl)-2,6-dimethyl-1-(3-benzyloxypropyl)-3,5-pyridinedicarboxylic acid 3-methyl ester | 875 mg | COC(=O)C1=C(N(C(=C(C1C1=CC(=C(C=C1)OC)OC)C(=O)O)C)CCCOCC1=CC=CC=C1)C | C28H33NO7
